US04808723
11.71 g of 2,4-dinitrophenyl thiocyanate are added, over the course of 15 minutes, to a solution of 7.6 g of thiourea in 50 ml of dimethylformamide at 150° C. The mixture is stirred at 150° C. for a further 2 hours, and the product is discharged into 500 ml of water, and the solid is filtered off with suction and washed with water. 11 g of crude 2-amino-5-nitrobenzothiazole are obtained, its identity being confirmed by TLC comparison with authentic material.

reactant | 2,4-dinitrophenyl thiocyanate | 11.71 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])SC#N | C7H3N3O4S
reactant | thiourea | 7.6 g | NC(=S)N | CH4N2S
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-amino-5-nitrobenzothiazole | 11 g | NC=1SC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C7H5N3O2S
